US07071340B2
145 mg (2.6 mmol) of potassium hydroxide pellets are added to 0.5 g (2 mmol) of methyl 3-(chloromethylene)-2,3-dihydro-1-benzoxepin-7-carboxylate, prepared according to example 32, in solution in 8 ml of 80% aqueous ethanol, and the medium is brought to reflux for 3 hours. After cooling, the medium is brought to acidity by addition of 1N hydrochloric acid. The precipitate is filtered off and then washed with diisopropyl ether to provide 300 mg (63%) of 3-(chloromethylene)-2,3-dihydro-1-benzoxepin-7-carboxylic acid in the form of a white solid comprising two Z/E isomers as a mixture in an 85/15 ratio; M.p.>260° C.

reactant | potassium hydroxide | 2.6 mmol, 145 mg | [OH-].[K+]
reactant | methyl 3-(chloromethylene)-2,3-dihydro-1-benzoxepin-7-carboxylate | 2 mmol, 0.5 g | ClC=C1COC2=C(C=C1)C=C(C=C2)C(=O)OC | C13H11ClO3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 3-(chloromethylene)-2,3-dihydro-1-benzoxepin-7-carboxylic acid | 300 mg, 63% | ClC=C1COC2=C(C=C1)C=C(C=C2)C(=O)O | C12H9ClO3
